US07754744B2
Step 2: (4-Methyl-quinolin-2-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(4-methyl-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.54 g, 1.58 mmol) in 4 M HCl in dioxane (50 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 242.4 [M+H]+.

reactant | 4-(4-methyl-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.58 mmol, 0.54 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=CC=C2C(=C1)C | C20H27N3O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (4-Methyl-quinolin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.CC1=CC(=NC2=CC=CC=C12)NC1CCNCC1 | InChI=1S/C15H19N3.2ClH/c1-11-10-15(17-12-6-8-16-9-7-12)18-14-5-3-2-4-13(11)14;;/h2-5,10,12,16H,6-9H2,1H3,(H,17,18);2*1H
